US06881737B2
3-Nitroaniline (2.0 g, 14.48 mmol) was dissolved in CH2Cl2 (75 ml) and cooled to 0° C. To this solution were added EDC (8.3 g, 43.4 mmol), HOBT (5.9 g, 43.4 mmol), DIEA (12.6 ml, 72.4 mmol) and acrylic acid (3.97 ml, 57.9 mmol). The reaction mixture was kept at RT for 1.25 h. The reaction mixture was diluted with EtOAc and washed with brine. The organic layer was dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography using 1:1 EtOAc/hexanes as the solvent to give N-(3-nitrophenyl)acrylamide.

reactant | 3-Nitroaniline | 14.48 mmol, 2.0 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | EDC | 43.4 mmol, 8.3 g
reactant | HOBT | 43.4 mmol, 5.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 72.4 mmol, 12.6 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | acrylic acid | 57.9 mmol, 3.97 ml | C(C=C)(=O)O | C3H4O2
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-nitrophenyl)acrylamide | [N+](=O)([O-])C=1C=C(C=CC1)NC(C=C)=O | C9H8N2O3
